US07468449B2
A. 3-(2-Furanyl)pentan-3-ol
2-methyl furate (10.0 g, 79 mmol) is dissolved in THF (100 mL) under a nitrogen atmosphere. Ethyl magnesium bromide (3.0 M in Et2O, 55 ml, 166 mmol) is added initially at room temperature. The reaction is cooled to −30° C., and the remaining ethyl Grignard added. The mixture is stirred overnight at room temperature. Saturated sodium bicarbonate solution (10 mL) is added to the stirring solution followed by diethyl ether (100 mL) and water (50 mL). The organic layer is separated and washed with water. The ether layer is dried over magnesium sulfate, filtered, and evaporated under vacuum to give 10.7 g of a oil, which was used without further purification.

reactant | 2-methyl furate | 79 mmol, 10.0 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | Ethyl magnesium bromide | 166 mmol, 3.0 M, 55 ml | C(C)[Mg]Br
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-(2-Furanyl)pentan-3-ol | 10.7 g | O1C(=CC=C1)C(CC)(CC)O | C9H14O2
